US08703941B2
4-(4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexyl)morpholine
Into a 50-mL round-bottom flask, was placed a solution of 4-(morpholin-4-yl)cyclohexan-1-ol (164 mg, 0.89 mmol, 1.50 equiv) in N,N-dimethylformamide (15 mL), sodium hydride (47 mg, 1.96 mmol, 2.00 equiv). The resulting mixture was stirred at 80° C. for 30 minutes. Then 4-chlorothieno[2,3-b]pyridine (100 mg, 0.59 mmol, 1.00 equiv) was added to the mixture. The resulting solution was stirred for 4 h at 120° C. in an oil bath. The reaction was then quenched by the addition of 5 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×15 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1). The crude product (120 mg) was purified by Prep-1-HPLC with the following conditions: Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, CH3CN and water with 0.05% HCOOH (10.0% water with 0.05% HCOOH up to 50.0% in 10 min, up to 100.0% in 2 min, down to 10.0% in 2 min); Detector, uv 254/220 nm. This resulted in 72.2 mg (32%) of 4-(4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexyl)morpholine as a white semi-solid. MS: (ES,m/z): 319.10 [M+H]+NMR (400 MHz, D2O, ppm): δ 1.53-1.71 (m, 4H), 2.19-2.33 (dd, J1=29.7 Hz, J2=9.3 Hz, 4H), 3.24-3.30 (m, 3H), 3.51 (m, 2H), 4.07 (s, 2H), 4.60 (m, 1H), 6.98 (d, J=4.5 Hz, 1H), 7.37 (d, J=4.5 Hz, 1H), 7.52 (d, J=4.5 Hz, 1H), 8.33 (d, J=4.5 Hz, 1H).

reactant | 4-(morpholin-4-yl)cyclohexan-1-ol | 0.89 mmol, 164 mg, 1.50 equiv | N1(CCOCC1)C1CCC(CC1)O | C10H19NO2
reactant | sodium hydride | 1.96 mmol, 47 mg, 2.00 equiv | [H-].[Na+]
reactant | 4-chlorothieno[2,3-b]pyridine | 0.59 mmol, 100 mg, 1.00 equiv | ClC1=C2C(=NC=C1)SC=C2 | C7H4ClNS
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-(4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexyl)morpholine | S1C=CC=2C1=NC=CC2OC2CCC(CC2)N2CCOCC2 | C17H22N2O2S
